US08802864B2
b) 4-[4-(1-benzofuran-5-yl)-3-hydroxyphenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a microwave vial were added 4-(4-bromo-3-hydroxyphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.172 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran (0.26 mmol), Cs2CO3 (0.52 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (0.00735 mmol). The mixture was purged with nitrogen followed by the addition of 1,4-dioxane (1 mL) and water (0.5 mL). The suspension was heated for 16 h at 100° C., at which point LCMS analysis indicated desired product formation and consumption of starting material. The mixture was filtered through a syringe filter and purified by reverse phase HPLC (10-90% acetonitrile/water+0.1% TFA). The desired fractions were collected and added to a separatory funnel containing ethyl acetate. The aqueous phase was adjusted to pH˜6 with 1N aq HCl. The aqueous phase was extracted with ethyl acetate (3×), and the combined organics were washed with brine, dried over Na2SO4, filtered, and concentrated to afford the title product as a white solid (20 mg, 26%). MS(ES)+ m/e 445.2 [M+H]+.

reactant | 4-(4-bromo-3-hydroxyphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.172 mmol | BrC1=C(C=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)O | C17H19BrN4O3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran | 0.26 mmol | CC1(OB(OC1(C)C)C=1C=CC2=C(C=CO2)C1)C | C14H17BO3
reactant | Cs2CO3 | 0.52 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 0.00735 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 4-[4-(1-benzofuran-5-yl)-3-hydroxyphenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 20 mg, 26% | O1C=CC2=C1C=CC(=C2)C2=C(C=C(C=C2)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O)O | C25H24N4O4
